* MOSFET IV and CV Characteristics Simulation with Temperature Analysis
.option temp=27 tnom=27
.option gmin=1e-15
.option reltol=1e-8
.option abstol=1e-12
.option chgtol=1e-15
.option method=gear
.option TEMP=27
.option TNOM=27
.option TEMPSCALE=1.0

* Include FreePDK45 model
.inc ../models/ngspice-cmos/FreePDK45/nom.inc

* IV Characteristics Circuit
Vds d 0 DC 0
Vgs g 0 DC 0
* Reduced width for better thermal behavior
M1 d g s b NMOS_VTG L=0.045u W=10u
Vs s 0 DC 0
Vb b 0 DC 0

* CV Characteristics Circuit
Vg_cv g_cv 0 DC 0 AC 1
Vd_cv d_cv 0 DC 1.2
Vs_cv s_cv 0 DC 0
Vb_cv b_cv 0 DC 0
M2_cv d_cv g_cv s_cv b_cv NMOS_VTG L=0.045u W=10u

* Control block
.control
set filetype=ascii
set wr_vecnames
set wr_singlescale
set wr_singleprecision
set wr_formatted

* Run DC analysis with temperature sweep
echo "Starting temperature sweep"

* Temperature -40°C
option temp=-40
echo "Running simulation at temperature: -40 °C"
dc Vds 0 1.2 0.01 Vgs 0 1.2 0.2
let id = i(Vds)
let is = i(Vs)
let ig = i(Vgs)
let ib = i(Vb)
let kcl = abs(id + is + ig + ib)
* Write data in the order expected by data_reader: v(d) v(g) i(vds) i(vs) i(vb) i(vgs) kcl
wrdata ./iv_data_-40.txt v(d) v(g) id is ib ig kcl

* Temperature 0°C
option temp=0
echo "Running simulation at temperature: 0 °C"
dc Vds 0 1.2 0.01 Vgs 0 1.2 0.2
let id = i(Vds)
let is = i(Vs)
let ig = i(Vgs)
let ib = i(Vb)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_0.txt v(d) v(g) id is ib ig kcl

* Temperature 25°C
option temp=25
echo "Running simulation at temperature: 25 °C"
dc Vds 0 1.2 0.01 Vgs 0 1.2 0.2
let id = i(Vds)
let is = i(Vs)
let ig = i(Vgs)
let ib = i(Vb)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_25.txt v(d) v(g) id is ib ig kcl

* Temperature 50°C
option temp=50
echo "Running simulation at temperature: 50 °C"
dc Vds 0 1.2 0.01 Vgs 0 1.2 0.2
let id = i(Vds)
let is = i(Vs)
let ig = i(Vgs)
let ib = i(Vb)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_50.txt v(d) v(g) id is ib ig kcl

* Temperature 100°C
option temp=100
echo "Running simulation at temperature: 100 °C"
dc Vds 0 1.2 0.01 Vgs 0 1.2 0.2
let id = i(Vds)
let is = i(Vs)
let ig = i(Vgs)
let ib = i(Vb)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_100.txt v(d) v(g) id is ib ig kcl

* Temperature 150°C
option temp=150
echo "Running simulation at temperature: 150 °C"
dc Vds 0 1.2 0.01 Vgs 0 1.2 0.2
let id = i(Vds)
let is = i(Vs)
let ig = i(Vgs)
let ib = i(Vb)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_150.txt v(d) v(g) id is ib ig kcl

* Run CV analysis
* First set DC bias
dc Vg_cv 0 1.2 0.01
* Then run AC analysis at each bias point
ac dec 10 1 1e9
* Calculate gate capacitance directly from current
let ig_cv = i(Vg_cv)
let is_cv = i(Vs_cv)
let ib_cv = i(Vb_cv)
let cgg = -imag(ig_cv)/(2*pi*frequency)
* Save Vg directly from DC sweep
wrdata ./cv_data.txt v(g_cv) cgg ig_cv is_cv ib_cv

quit
.endc

.end